US06638965B2
(Z)-3-{1-[4-(N-(aminocarbonylmethyl)-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-5-phenylsulphonylamino-2-indolinone
A solution of 250 mg (0.4 mmol) of (Z)-3-[1-(4-(N-carboxymethyl-N-methylsulphonyl-amino)-phenylamino)-1-phenyl-methylidene]-5-phenylsulphonylamino-2-indolinone and 82 mg (0.4 mmol) of CDI in 5 ml of DMF is stirred for 1 hour at 50° C. 1 ml of condensed ammonia is added and the mixture is stirred for 5 hours at ambient temperature. Then water is added. The yellow precipitate is suction filtered, washed with water, a little isopropanol and ether, then dried in vacuo.

reactant | (Z)-3-[1-(4-(N-carboxymethyl-N-methylsulphonyl-amino)-phenylamino)-1-phenyl-methylidene]-5-phenylsulphonylamino-2-indolinone | 0.4 mmol, 250 mg | C(=O)(O)CN(S(=O)(=O)C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C30H26N4O7S2
reactant | CDI | 0.4 mmol, 82 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ammonia | N | H3N
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (Z)-3-{1-[4-(N-(aminocarbonylmethyl)-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-5-phenylsulphonylamino-2-indolinone | NC(=O)CN(S(=O)(=O)C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C30H27N5O6S2
